US04518597
6-[6-(3,4-Dimethoxy-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(6-bromohexyloxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethoxythiophenol.

reactant | 6-(6-bromohexyloxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrCCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C16H22BrNO3
reactant | 3,4-dimethoxythiophenol | COC=1C=C(C=CC1OC)S | C8H10O2S
product | 6-[6-(3,4-Dimethoxy-phenylmercapto)-hexyloxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C24H31NO5S
